US08871782B2
2-(1-Naphthyl)ethanesulfonyl chloride (0.358 g, 1.40 mmol) was added in one portion to a suspension of 7-(3-aminopropoxy)-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolinamine (0.500 g, 1.41 mmol) in chloroform, and the reaction was stirred for 30 minutes. Triethylamine (0.250 mL, 1.79 mmol) was then added. The reaction mixture was poured into saturated aqueous sodium carbonate. The organic layer was separated, washed with water and brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting pale yellow oil was purified by column chromatography on silica gel (eluting with dichloromethane:methanol ranging in ratios from 99:1 to 94:6) and subsequent recrystallization from acetonitrile to yield 0.341 g of N-(3-{[4-amino-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}propyl)-2-(1-naphthyl)ethanesulfonamide as white crystals, mp 164-168° C.

reactant | 2-(1-Naphthyl)ethanesulfonyl chloride | 1.40 mmol, 0.358 g | C1(=CC=CC2=CC=CC=C12)CCS(=O)(=O)Cl | C12H11ClO2S
reactant | 7-(3-aminopropoxy)-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolinamine | 1.41 mmol, 0.500 g | NCCCOC=1C=CC=2C3=C(C=NC2C1)NC(N3CC(C)C)(N)CCC | C20H31N5O
reactant | Triethylamine | 1.79 mmol, 0.250 mL | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(3-{[4-amino-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}propyl)-2-(1-naphthyl)ethanesulfonamide | 0.341 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)C)CCC)OCCCNS(=O)(=O)CCC2=CC=CC1=CC=CC=C21 | C32H39N5O3S
